US08541588B2
5-Chloro-2-fluoro-4-[2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide
To a stirred solution of 5-Chloro-N-(2,4-dimethoxybenzyl)-2-fluoro-4-[2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide (Preparation 900, 30.3 g, 44.4 mmol) in 1,4-dioxane (250 mL) at room temperature was added a 4M solution of HCl in 1,4-dioxane (300 mL) dropwise over 30 minutes. The resulting suspension was left to stir at room temperature for 3 hours before concentration in vacuo. The residue was azeotroped with diethyl ether (3×300 mL) followed by a diethyl ether trituration (200 mL) to provide crude material as a fawn coloured solid. This material was suspended in methanol (200 mL) and filtered through Celite, washed with methanol (400 mL) and the resulting filtrate concentrated in vacuo to give a sand coloured solid. This material was suspended in water (100 mL) and treated with 880 ammonia (60 mL) portionwise until pH 9-10 was achieved. The resulting solution was washed with diethyl ether (3×75 mL) and the aqueous layer acidified to pH=5 with citric acid. The mixture was then extracted with ethyl acetate (3×200 mL) and brine (100 mL) added to aid separation. The combined organic layers were washed with water (200 mL), dried over MgSO4 and concentrated in vacuo to approximately 100 mL whereby a precipiatate was observed. This mixture was allowed to cool for 18 hours and the resulting solid filtered and washed with cold ethyl acetate (10 mL) and dried in vacuo at 60° C. to provide the title compound as a sand coloured crystalline solid (17.5 g) containing 8.2% by weight ethyl acetate solvate.

reactant | 5-Chloro-N-(2,4-dimethoxybenzyl)-2-fluoro-4-[2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | 44.4 mmol, 30.3 g | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C=1SC=NN1)CC1=C(C=C(C=C1)OC)OC)F)OC1=C(C=C(C=C1)C(F)(F)F)C1=CN=NC=C1 | C28H20ClF4N5O5S2
reactant | HCl | Cl | ClH
reactant | ammonia | 60 mL | N | H3N
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 5-Chloro-2-fluoro-4-[2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | ClC=1C(=CC(=C(C1)S(=O)(=O)NC=1SC=NN1)F)OC1=C(C=C(C=C1)C(F)(F)F)C1=CN=NC=C1 | C19H10ClF4N5O3S2
